Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Drug Allergy Information on File
 
Attending: ___
 
Chief Complaint:
transfer for cirrhosis 
 
Major Surgical or Invasive Procedure:
intubation, a line placement
 
History of Present Illness:
___ old man with PMH of alchoholic cirrhosis with portal 
hypertensive gastropathy and esophagitis who initially presented 
on ___ ___ with weakness and 
lightheadedness who is now presenting with worsening liver 
failure, renal failure, hypotension and encephalopathy.  

Briefly, at the OSH, he was admitted for above. He was also 
acting confused and had epistaxis. He was newly jaundiced and 
had pain in his R shoulder and R knee. During his 
hospitalization he was found to have MSSA bacteremia, probable 
endocarditis, with septic emboli to brain, ARF, and worsening 
bilirubinemia. First, respiratory-wise, he was intubated on ___ 
for an AC joint washout. He was diuresed and extubated. His 
respiratory status stayed stable. As for his infection, he was 
started on azithro/ceftriaxone for PNA initially. Then blood cx 
on ___ grew MSSA. He was switched to vanco. Then again switched 
to oxacillin/levoflox for eye penetration of his vitreous 
infection. Ophtho followed. A TTE was performed and showed no 
vegetation, and a TEE was deferred because of risks and the 
mortality of cardiac surgery would be so high, that the 
management would not change. He did have a shoulder washout with 
cultures that grew MSSA. His WBC trended upward. He had 
worsening pancytopenia and multiple transfusions while at OSH. 
He also had worsening ARF. He became oliguric and the thought 
was that it was secondary to NSAIDs and sepisis. He was dialyzed 
once and his Cr improved and his urine output increased. Over 
the last few days, his BUN and Cr have continued to rise again. 
He also was thought to have septic emboli to his brain. He had 
asterixis but was conversational until the day of transfer when 
his lethargy worsened.  

On the floor, initial vs were T 98.6, P 90, BP 119/42, R 12, O2 
sat 97% on 2L. Patient was intubated for airway protection as he 
was gurgling and not responding. He was posturing. He withdrew 
to pain only minimally. He was continued on his levofed gtt. 
Propofol was tried for sedation, but not tolerated because of 
hypotension. Fentanyl and versed was started for sedation.  

Unable to obtain ROS.
 
Past Medical History:
ETOH cirrhosis with ascites  
Portal Gastropathy  
HTN  

 
Social History:
___
Family History:
non-contributory, unable to obtain, per report no liver dx in 
family
 
Physical Exam:
Vitals: T: BP: 97/53 P: 97 R: 15 O2: 95% @ 50%  
General: Unarousable  
HEENT: Sclera severely icteric, MMM  
Lungs: coarse crackles and rhonchorous noises in all fields 
bilaterally  
CV: RRR, almost unable to hear over coarse breath sounds  
Abdomen: soft, non-tender, distended, hyperactive bowel sounds  
Ext: 4+ pitting edema bilaterally  
Skin: bright yellow, sporadic spider angiomas across upper torso 
 

 
Pertinent Results:
LABS:
___ 11:56PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 11:56PM URINE  BLOOD-MOD NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-LG UROBILNGN-NEG PH-5.5 LEUK-TR
___ 11:56PM URINE  RBC-81* WBC-9* BACTERIA-MOD YEAST-NONE 
EPI-0
___ 11:56PM URINE  GRANULAR-1*
___ 10:39PM   TYPE-CENTRAL VE PO2-50* PCO2-23* PH-7.38 
TOTAL CO2-14* BASE XS--9
___ 10:39PM   LACTATE-2.4* NA+-127* K+-4.2
___ 10:39PM   freeCa-1.08*
___ 10:22PM   GLUCOSE-91 UREA N-138* CREAT-4.5* SODIUM-126* 
POTASSIUM-4.4 CHLORIDE-94* TOTAL CO2-12* ANION GAP-24*
___ 10:22PM   estGFR-Using this
___ 10:22PM   ALT(SGPT)-21 AST(SGOT)-48* CK(CPK)-27* ALK 
PHOS-101 TOT BILI-23.7*
___ 10:22PM   CK-MB-NotDone cTropnT-0.25*
___ 10:22PM   ALBUMIN-2.2* CALCIUM-8.0* PHOSPHATE-9.1* 
MAGNESIUM-2.5
___ 10:22PM   WBC-20.7* RBC-2.82* HGB-8.4* HCT-23.8* MCV-84 
MCH-29.6 MCHC-35.2* RDW-18.7*
___ 10:22PM   NEUTS-91.3* LYMPHS-5.1* MONOS-2.9 EOS-0.4 
BASOS-0.2
___ 10:22PM   PLT COUNT-117*
___ 10:22PM   ___ PTT-107.9* ___

CT HEAD: Large intraventricular and probable left thalamic 
hemorrhage with moderate hydrocephalus.

 
Brief Hospital Course:
___ with EtOH cirrhosis and worsening liver failure, 
encephalopathy, renal failure, leukocytosis and known MSSA 
___ transferred from ___.

# ETOH cirrhosis/acute liver failure: has liver failure with new 
encephalopathy, jaundice, and coagulopathy. Not improving. Per 
liver consult the patient is not a transplant candidate. 
Initially treated with with octreotide, midodrine, blood 
products and lactulose. Individual problems discussed below.

# Hypotension: likely septic shock in the setting of rising WBC. 
Transferred on low dose levofed and tolerating well. Did not 
tolerated propofol because of hypotension. Levofed gtt started 
initially. Infectious workup as below.

# Hyperbilirubinemia: ___ liver failure.

# Coagulopathy: worsening coagulopathy and is oozing from nose 
and NG tube. INR is 3.9 and PTT over 100. Initially given FFP 
and vitamin K via NGT.

# Altered mental status: ICH found on CT. Possibly also with 
encephalopathy from liver failure and contribution from uremia. 
Patient intubated for airway protection. Extubated as discussed 
below.

# Acute Renal Failure: has worsening renal failure with rising 
BUN and Cr. Likely has uremia, although electrolytes are stable. 
Was dialyzed once at OSH. Is not oliguric. Initially treated 
with IVFs/levofed for kidney perfusion. Renal consulted, however 
patient not considered suitable candidate for HD line and 
dialysis.

# Anion Gap Acidosis: likely from combination of renal failure 
and lactic acidosis. Would not benefit from HCO3 because worsens 
encephalopathy when broken down across the BBB. 

# Leukocytosis/MSSA bactermia: rising leukocytosis and known 
MSSA bactermia. ___ have new source of infection. Etiologies 
could be line infection, SBP, or c. diff. Cultures pending. 
Initially started on broad antibiotics which were stopped given 
decision to make patient CMO.

# Hyponatremia: Likely from hypervolemic hyponatremia in the 
setting of cirrhosis and ascites.

# GI Bleeding: Ongoing bleeding from NG tube, guiac positive. 
Hemodynamically stable on night of admission. Initially 
transfused with RBCs and FFP.

# Respiratory Failure: intubated for altered mental status and 
inability to protect his airway. Patient terminally extubated 
after decision to make CMO as discussed below.

# CODE STATUS/GOALS OF CARE: Family meeting on second day of 
hospitalization to discuss poor prognosis. Patient has 
intracranial bleed, end stage liver and renal failure. Family 
made aware that he will not recover from these illnesses. 
Decision was made to become comfort measures. Dr. ___ was 
present for the meeting, as was a social worker and the 
patient’s nurse ___. The family will visit right now and plan 
for extubation later today.

The patient was extubated in the early afternoon of ___ and he 
slowly became bradycardic, hypotensive, bradypneic, and expired 
at 16:05.

 
Medications on Admission:
Calcium Acetate Capsule 1334mg  
Oxacillin Sodium 2gm  
Hydromorphone  
Lansoprazole 30mg BID  
Norephinephrine 4mg per criteria  

 
Discharge Medications:
N/A
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
Terminal Extubation
Liver Failure
Intraventricular Hemorrhage

 
Discharge Condition:
Pt. expired

 
Discharge Instructions:
Pt. expired
 
Followup Instructions:
___